US09169201B2
Step A: (4-{[(4-tert-Butyl-phenyl)-carboxy-methyl]-amino}-benzoic acid tert-butyl ester
In a 100 mL round bottom flask, t-butyl phenyl boronic acid (850 mg, 4.4 mmol), glyoxylic acid (404 mg, 4.4 mmol) and 4-Amino-benzoic acid tert-butyl ester (780 mg, 4.4 mmol) were dissolved in 25 mL of dichloromethane and allowed to stir at RT. After 30 min the reaction turned cloudy, but was allowed to stir an additional 2 h. Upon completion, the reaction was quenched with 20 mL water and the organic layer was separated, dried over sodium sulfate and filtered. The solvent was removed under reduced pressure to give 1.6 g (95%). of a light yellow powder. 1H NMR (CDCl3): δ 1.29 (9H, s), 1.55 (9H, s), 5.17 (1H, s), 6.57 (2H, d, J=8.4 Hz), 7.39 (4H, s), 7.78 (2H, d, J=8.4 Hz).

reactant | t-butyl phenyl boronic acid | 4.4 mmol, 850 mg | C(C)(C)(C)OB(O)C1=CC=CC=C1 | C10H15BO2
reactant | glyoxylic acid | 4.4 mmol, 404 mg | C(C=O)(=O)O | C2H2O3
reactant | 4-Amino-benzoic acid tert-butyl ester | 4.4 mmol, 780 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)N)=O | C11H15NO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-{[(4-tert-Butyl-phenyl)-carboxy-methyl]-amino}-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)NC(C(=O)O)C1=CC=C(C=C1)C(C)(C)C)=O | C23H29NO4
